US04963590
3,4-Dihydroxy-5-trifluoromethylbenzaldehyde
A solution containing 2.2 g of 4-hydroxy-3-methoxy-5-trifluoromethylbenzaldehyde in 65 ml of 1 molar BBr3 in dichloromethane was stirred for 2 h at room temperature. Hydrochloric acid was added and the organic phase was separated. The solvent was evaporated in vacuo. Yield 1.4 g (68%), m.p. 188°-192° C.

reactant | 4-hydroxy-3-methoxy-5-trifluoromethylbenzaldehyde | 2.2 g | OC1=C(C=C(C=O)C=C1C(F)(F)F)OC | C9H7F3O3
reactant | Hydrochloric acid | Cl | ClH
solvent | BBr3 | 1 molar, 65 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3,4-Dihydroxy-5-trifluoromethylbenzaldehyde | OC=1C=C(C=O)C=C(C1O)C(F)(F)F | C8H5F3O3
